* tb_preamp_noise -- input-referred noise of the comparator, measured with
* ngspice's `.noise` analysis, over the full PVT grid.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end (sim/harness/README.md).
* Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* WHY THIS TESTBENCH CAN EXIST AT ALL -- the topology decision in one
* paragraph. `.noise` is a small-signal AC analysis about a DC operating
* point. A StrongARM or double-tail comparator is a reset-and-regenerate
* structure with NO DC operating point, so `.noise` returns nothing
* usable for it, and ngspice offers no PSS/pnoise and no automatic
* device-level transient noise (prior-art-survey S3.5). The static
* preamplifier chosen in DR-0007 is the only shortlisted topology with a
* real DC operating point -- so its noise, which is the DOMINANT term
* because everything after it is divided by the preamp gain, is closed
* here by a deterministic 45-point analysis instead of by the 10^3-10^4
* transient trials PER CORNER a dynamic topology would have required.
* That is the schedule argument DR-0007 rests on, made concrete.
*
* WHAT IS MEASURED
*
*   inoise_full   input-referred noise integrated 1 Hz .. 1 GHz. This is
*                 the number the budget uses. A comparator SAMPLES its
*                 input noise at the decision instant rather than
*                 filtering it, so the relevant quantity is the total
*                 integrated noise at the preamp output referred back to
*                 the input -- not a noise density at some bandwidth.
*   inoise_hf     the same integrated from 1 kHz up. The difference in
*                 quadrature is the sub-kHz flicker content, which is
*                 CORRELATED across the ten bit trials of one conversion
*                 (they span 10 us; 1 kHz is a 1 ms timescale) and so
*                 behaves as a slowly-drifting OFFSET rather than as
*                 per-decision noise. Reporting both bands keeps that
*                 distinction visible instead of burying it.
*   av_dc, f3db   gain and bandwidth from the companion .ac sweep, so the
*                 noise number can be checked against
*                 (input-referred density) x sqrt(noise bandwidth) by
*                 hand.
*
* THE LATCH IS INSTANTIATED HERE, unlike in the offset decks, with its
* clock held LOW. It contributes no current in reset, but its input pair
* presents the gate capacitance that -- with the 150 kohm loads -- sets
* the preamp's noise bandwidth. Leaving it out would under-count the
* load and over-state the bandwidth. Its own noise is a separate term:
* it cannot be measured by `.noise` at all (no operating point), and is
* bounded in spec/comparator-budget-memo.md S5.3 and probed end-to-end
* in sim/comparator-noise-trnoise/.
*
* fnoicor. The flicker-corner switch is left at the PDK default
* (fnoicor = 0, as-extracted). devchar S3.4 measured that the worst-case
* setting moves the flicker corner by ~11x, and requires every flicker
* number in this repo to state which setting it came from. The
* consequence is bounded rather than ignored: the inoise_full /
* inoise_hf split below quantifies how much of the total is flicker at
* all, so a reader can rescale the flicker part by 11x (in POWER, i.e.
* sqrt(11) = 3.3x in amplitude) and see immediately whether it would
* change the verdict.

.nodeset v(ibn)=0.75 v(pop)='vdd_val-0.8' v(pon)='vdd_val-0.8'

.param ib=10u
.param vcm_nom=1.65

vsup vdd 0 dc {vdd_val}

* Differential stimulus. `vd` is the noise-analysis input source, so
* ngspice's inoise_* is referred to the DIFFERENTIAL input directly.
vcm  cm 0 dc {vcm_nom}
vd   vd 0 dc 0 ac 1
Eap  ap cm vd 0 0.5
Ean  an cm vd 0 -0.5
ib   vdd ibn dc {ib}
Xa   ap an ibn pop pon vdd 0 preamp

* Latch in reset: no current, but its input-pair gate capacitance is the
* load that sets the preamp's noise bandwidth.
vclk clk 0 dc 0
Xl   pop pon clk outp outn vdd 0 sarlatch

* Wiring/routing allowance on each preamp output: 10 fF per side, a
* stated placeholder for interconnect that does not exist until the
* floorplan (#16) does. It is kept deliberately SMALL, because loading
* this node harder would lower the noise bandwidth and so REDUCE the
* reported noise -- an optimistic direction. Under-loading it is the
* conservative choice, and it means post-layout extraction (#17) can
* only improve this number, never worsen it.
Cwp pop 0 10f
Cwn pon 0 10f

* --- COMPARATOR-NETLIST-BEGIN (verbatim-copied into every testbench) ---
.subckt preamp vinp vinn ibias pop pon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=20u l=2u
Xmt  ptail ibias vss vss nfet_03v3 w=20u l=2u
* Input pair. The device whose gate is vinp drives the INVERTING node
* pon, so v(pop) - v(pon) = +A_v * (v(vinp) - v(vinn)).
Xmip pon vinp ptail vss nfet_03v3 w=40u l=1u
Xmin pop vinn ptail vss nfet_03v3 w=40u l=1u
* Unsalicided 2 kohm/sq p+ poly loads, 75 squares = 150 kohm nominal.
* Third terminal is the substrate/body contact.
Xrlp vdd pop vss ppolyf_u_2k r_width=1u r_length=75u
Xrln vdd pon vss ppolyf_u_2k r_width=1u r_length=75u
.ends preamp

.subckt sarlatch inp inn clk outp outn vdd vss
* clk low  -> tail off; outp/outn/dip/din precharged to vdd
* clk high -> tail on; the input pair discharges dip/din at rates set by
*             v(inp)/v(inn), then the cross-coupled pairs regenerate.
Xmlt ltail clk   vss   vss nfet_03v3 w=16u l=0.35u
Xmlp dip   inp   ltail vss nfet_03v3 w=8u  l=0.5u
Xmln din   inn   ltail vss nfet_03v3 w=8u  l=0.5u
Xmnp outn  outp  dip   vss nfet_03v3 w=6u  l=0.35u
Xmnn outp  outn  din   vss nfet_03v3 w=6u  l=0.35u
Xmpp outn  outp  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmpn outp  outn  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmrp outn  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrn outp  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrd dip   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
Xmre din   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
.ends sarlatch

.subckt nand2 a b y vdd vss
Xp1 y  a vdd vdd pfet_03v3 w=8u l=0.35u
Xp2 y  b vdd vdd pfet_03v3 w=8u l=0.35u
Xn1 y  a ns  vss nfet_03v3 w=8u l=0.35u
Xn2 ns b vss vss nfet_03v3 w=8u l=0.35u
.ends nand2

.subckt comparator vinp vinn clk ibias dout doutb vdd vss
Xpre preamp_in1 preamp_in2 ibias pop pon vdd vss preamp
Xlat pop pon clk outp outn vdd vss sarlatch
* Both StrongARM outputs precharge HIGH, so the decision arrives as an
* active-low pulse on exactly one of them; a NAND SR latch holds it.
* dout goes HIGH when outn falls, i.e. when v(vinp) > v(vinn).
Xna1 outn  doutb dout  vdd vss nand2
Xna2 outp  dout  doutb vdd vss nand2
* Input pass-through (zero-volt sources) so a testbench can probe the
* current the comparator draws from each CDAC top plate directly.
Vpp preamp_in1 vinp dc 0
Vpn preamp_in2 vinn dc 0
.ends comparator
* --- COMPARATOR-NETLIST-END ---
